US04886835
The procedure is as in Example 4 for the preparation of ethyl 6-phenyl-6-oxo-5-methylthio-2-dimethylamino-2,4-hexadienoate, starting with N-(3-dimethylamino-3-ethoxycarbonylpropenylidene)-N-methylmethanaminium tetrafluoroborate (8 g), a 2M ethanolic solution of sodium ethylate (14 cc) and ethyl 1-(3-biphenylyl)acetate (6.7 g) in ethanol (30 cc). After purification by chromatography on a silica column with dichloromethane as eluent, diethyl 2-dimethylamino-5-(3-biphenylyl)-2,4-hexadienedioate (4.2 g) is obtained in the form of a yellow oil, and is used in the curde state in the subsequent syntheses.

reactant | ethyl 6-phenyl-6-oxo-5-methylthio-2-dimethylamino-2,4-hexadienoate | C1(=CC=CC=C1)C(C(=CC=C(C(=O)OCC)N(C)C)SC)=O | C17H21NO3S
reactant | N-(3-dimethylamino-3-ethoxycarbonylpropenylidene)-N-methylmethanaminium tetrafluoroborate | 8 g | F[B-](F)(F)F.CN(C(=CC=[N+](C)C)C(=O)OCC)C
reactant | sodium ethylate | 14 cc | CC[O-].[Na+]
reactant | ethanol | 30 cc | C(C)O | C2H6O
product | diethyl 2-dimethylamino-5-(3-biphenylyl)-2,4-hexadienedioate | 4.2 g | CN(C(C(=O)OCC)=CC=C(C(=O)OCC)C=1C=C(C=CC1)C1=CC=CC=C1)C | C24H27NO4
